US08378104B2
Step A: 7-bromo-N-methyl-1,3-benzothiazol-2-amine
7-Bromo-2-chlorobenzothiazole (85 mg, 0.34 mmol) and methylamine (2 M in THF, 3 mL, 6 mmol) were mixed and heated to 60° C. overnight. The solvent was evaporated. The residue was purified by ISCO chromatography (0 to 30% EtOAc:heptane) to afford 56 mg (67%) of the title compound. MS (ESI): 243.30, 245.26 [M+H]+; HPLC tR=1.09 min (HPLC: Anayltical—2 min).

reactant | 7-Bromo-2-chlorobenzothiazole | 0.34 mmol, 85 mg | BrC1=CC=CC=2N=C(SC21)Cl | C7H3BrClNS
reactant | methylamine | 6 mmol, 2 M, 3 mL | CN | CH5N
product | 7-bromo-N-methyl-1,3-benzothiazol-2-amine | 56 mg, 67% | BrC1=CC=CC=2N=C(SC21)NC | C8H7BrN2S
